US08912186B2
By a procedure similar to that of example 1.59.2, starting from 3-(4-chlorophenyl)-1-(4-ethylphenyl)prop-2-en-1-one and dimethyl malonate, dimethyl 2-(1-(4-chlorophenyl)-3-(4-ethylphenyl)-3-oxopropyl)malonate was obtained as pale yellowish solid.

reactant | 3-(4-chlorophenyl)-1-(4-ethylphenyl)prop-2-en-1-one | ClC1=CC=C(C=C1)C=CC(=O)C1=CC=C(C=C1)CC | C17H15ClO
reactant | dimethyl malonate | C(CC(=O)OC)(=O)OC | C5H8O4
product | dimethyl 2-(1-(4-chlorophenyl)-3-(4-ethylphenyl)-3-oxopropyl)malonate | ClC1=CC=C(C=C1)C(CC(=O)C1=CC=C(C=C1)CC)C(C(=O)OC)C(=O)OC | C22H23ClO5
